US05212320
To a solution of 1-(2-methyl-1-propenyl)-3-nitrobenzene (4.57 g) in a mixture of methanol (50 ml) and 6N hydrochloric acid (14 ml) was added 10% palladium on activated carbon (1 g), and the mixture was stirred under hydrogen atmosphere (3 atm) at 25° C. for 3 hours. The catalyst was filtered off, and the filtrate was evaporated. The residue was poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. Evaporation of the solvent gave 3-isobutylphenylamine (3.98 g) as a brown oil.

reactant | 1-(2-methyl-1-propenyl)-3-nitrobenzene | 4.57 g | CC(=CC1=CC(=CC=C1)[N+](=O)[O-])C | C10H11NO2
solvent | methanol | 50 ml | CO | CH4O
solvent | hydrochloric acid | 6N, 14 ml | Cl | ClH
catalyst | palladium on activated carbon | 1 g | [Pd] | Pd
product | 3-isobutylphenylamine | 3.98 g | C(C(C)C)C=1C=C(C=CC1)N | C10H15N
